US08633186B2
Prepared as in Example 112c from 2,6-dinitrobenzonitrile and 4-methoxybenzyl alcohol to provide 2-nitro-6-(4-methoxybenzyloxy)benzonitrile (2.40 g, 81%). 1H NMR (400 MHz, CDCl3) δ 3.82 (s, 3H), 5.26 (s, 2H), 6.93 (m, 2H), 7.35 (dd, J=8.6, 0.7 Hz, 1H), 7.38 (m, 2H), 7.65 (t, J=8.6 Hz, 1H), 7.83 (dd, J=8.2, 0.8 Hz, 1H).

reactant | 2,6-dinitrobenzonitrile | [N+](=O)([O-])C1=C(C#N)C(=CC=C1)[N+](=O)[O-] | C7H3N3O4
reactant | 4-methoxybenzyl alcohol | COC1=CC=C(CO)C=C1 | C8H10O2
product | 2-nitro-6-(4-methoxybenzyloxy)benzonitrile | 2.40 g, 81% | [N+](=O)([O-])C1=C(C#N)C(=CC=C1)OCC1=CC=C(C=C1)OC | C15H12N2O4
